US05807859
7-Chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one may be prepared in the following way: 1 g of 1-[2-(6-chloro-1-oxoindanyl)]imidazole-2-carboxamide is dissolved in 50 ml of boiling methanol and, after addition of 0.1 g of decolorizing charcoal, the solution is filtered. The filter is washed with 25 ml of boiling methanol, then the filtrate and the washing are combined, 15 ml of aqueous 12N hydrochloric acid solution are added and the mixture is stored for 3 hours at 5° C. The crystals are isolated by filtration, washed twice with 20 ml in total of chilled methanol and dried under reduced pressure (1 mmHg; 0.13 kPa) at 60° C. 0.4 g of 7-chloro-5H,10H-imidazo-[1,2-a]indeno(1,2-e]pyrazin-4-one hydrochloride is thus obtained, decomposing without melting above 300° C. [NMR spectrum: (300 MHz; DMSO-d6 ; δ in ppm): 4.12 (s, 2H: --CH2 -- at 10); 7.44 (dd, J=8 and 1 Hz 1H: --H8); 7.66 (d, J=8 Hz, 1H: --H9); 7.95 and 8.25 (2 broad s, 1H each: --H of the imidazole); 8.05 (d, J=1 Hz, 1H: --H6); 12.97 (mult., 1H: --CONH--)].

reactant | 7-Chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | ClC=1C=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C1 | C13H8ClN3O
reactant | charcoal | 0.1 g | C | CH4
solvent | methanol | 50 ml | CO | CH4O
product | 7-chloro-5H,10H-imidazo-[1,2-a]indeno(1,2-e]pyrazin-4-one hydrochloride | 0.4 g | Cl.ClC=1C=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C1 | InChI=1S/C13H8ClN3O.ClH/c14-8-2-1-7-5-10-11(9(7)6-8)16-13(18)12-15-3-4-17(10)12;/h1-4,6H,5H2,(H,16,18);1H
